* C:\Users\matti\Desktop\MAE\mxrPhase90\Face90\SPICE\SPICE files\phase90 - Stage.asc
V1 Vdd 0 9
V2 0 Vee 9
XU1a N009 N001 Vdd Vee N001 TL061
C5 N009 N008 0.01µ
R3 N008 N007 10k
R14 N009 Vref 470k
V3 Vref 0 5.1
R1 N002 N005 10k
XU2a N010 N002 Vdd Vee N003 TL061
R6 N010 Vref 24k
R5 N003 N002 10k
R8 N004 N006 150k
R16 N004 N001 150k
R7 N011 N004 150k
Q1 N011 N004 Vref 0 2N4125
C2 out N011 47n
R4 N011 0 56k
R2 out 0 150k
V5 0 0 wavefile=C:\Users\matti\Desktop\MAE\mxrPhase90\Face90\MATLAB\jumpMono.wav AC 1
V6 N007 0 SINE(0 0.2 1K)
R9 N010 Vref 10000000000
R10 N010 N005 15000
R11 N003 0 5000
V4 N005 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\matti\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TL061.txt
.tran 1s
.wave "C:\Users\matti\Desktop\MAE\mxrPhase90\Face90\MATLAB\sineLowVolumewithBJT.wav" 16 44.1k V(out)
.backanno
.end
